US08304446B2
N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(hydroxymethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide
N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(hydroxymethyl)-1H-indazol-3-yl]-5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-2-thiophenesulfonamide (for a preparation see Intermediate 72) (53 mg, 0.082 mmol) was suspended in dichloromethane (0.5 mL) and triethylamine (0.115 mL, 0.823 mmol). Acetic anhydride (0.008 mL, 0.09 mmol) was added to the suspension and it stirred for 1 h. LCMS showed starting material remaining so dichloromethane (0.3 mL) and acetic anhydride (3.88 μL, 0.041 mmol) were added to the solution and stirred for 2 h. LCMS showed only a small amount of starting material remaining so the reaction mixture was concentrated in vacuo to leave an off-white residue, which was dissolved in methanol (3 mL) and treated with NaOH (1.546 mL, 3.09 mmol). The reaction was stirred at room temperature for 1 h and then was concentrated in vacuo, and acidified with 5% citric acid. The solution was extracted with ethyl acetate and the organic layer was washed twice with water (25 mL) and once with brine (25 mL). The organic layer was dried over anhydrous magnesium sulfate before being evaporated in vacuo. The yellow residue was dissolved in 1:1 MeOH-DMSO (1 mL) and purified by Mass Directed AutoPrep on Sunfire C18 column using Acetonitrile Water with a Formic acid modifier (Method A). The solvent was evaporated in vacuo to give the title compound (17 mg, 43%) as a colourless glassy solid. LCMS (System A) RT=0.91 min, ES+ve m/z 505/507 (M+H)+.

reactant | N-[1-{[3-(Aminomethyl)phenyl]methyl}-4-(hydroxymethyl)-1H-indazol-3-yl]-5-chloro-N-[(5-chloro-2-thienyl)sulfonyl]-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)CO)N(S(=O)(=O)C=1SC(=CC1)Cl)S(=O)(=O)C=1SC(=CC1)Cl | C24H20Cl2N4O5S4
reactant | triethylamine | 0.823 mmol, 0.115 mL | C(C)N(CC)CC | C6H15N
reactant | Acetic anhydride | 0.09 mmol, 0.008 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic anhydride | 0.041 mmol, 3.88 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 3.09 mmol, 1.546 mL | [OH-].[Na+]
solvent | DCM | 0.5 mL | ClCCl | CH2Cl2
solvent | methanol | 3 mL | CO | CH4O
solvent | DCM | 0.3 mL | ClCCl | CH2Cl2
product | N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(hydroxymethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]acetamide | 17 mg, 43% | ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)CO)CC=1C=C(C=CC1)CNC(C)=O | C22H21ClN4O4S2
